### PR TITLE
feat(OEIS): add solutions from AlphaProof Nexus

### PR DESCRIPTION
**Pull request by mo271**
This upstreams the findings of https://github.com/google-deepmind/alphaproof-nexus-results/tree/main/APNOutputs/OEIS
from https://arxiv.org/abs/2605.22763.

As a follow up we plan to also potenially add the (cleaned-up) unsolved questions that remain, see here: 
https://github.com/google-deepmind/formal-conjectures/tree/auto_oeis/FormalConjectures/OEIS/Auto

### CODE REVIEW

File: FormalConjectures/OEIS/103311.lean [hunk 1]
```diff
@@ -0,0 +1,81 @@
...
+@[category test, AMS 11]
+lemma a_four : a 4 = -2 := by rfl
+
+
+/--
+A103311: A transform of the Fibonacci numbers.
+The sequence $a(n)$ satisfies the linear recurrence relation:
+$$a(n) = 3a(n-1) - 4a(n-2) + 2a(n-3) - a(n-4)$$
+with initial terms $a(0)=0, a(1)=1, a(2)=1, a(3)=0$.
+The sequence takes values in $\mathbb{Z}$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/103311.lean]: There is no verbatim citation of the conjecture: all elements in absolute value are Fibonacci numbers. It seems like the conjecture is that all values are integers.

File: FormalConjectures/OEIS/108.lean [hunk 2]
```diff
@@ -0,0 +1,87 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Conjectures associated with A108
+
+A000108 Catalan numbers: C(n) = binomial(2n,n)/(n+1).
+
+The sum $\sum_{i=j}^k \frac{1}{a(i)}$ of reciprocals of Catalan numbers.
```
Comment (codrut3) [inline FormalConjectures/OEIS/108.lean:24]: This isn't the full statement of the conjecture.
Conjecture: All the rational numbers Sum_{i=j..k} 1/a(i) with 0 < min{2,k} <= j <= k have pairwise distinct fractional parts.

File: FormalConjectures/OEIS/108.lean [hunk 3]
```diff
@@ -0,0 +1,87 @@
...
+due to dependence on the real floor function. -/
+noncomputable def frac_part (q : ℚ) : ℝ := fract (q : ℝ)
+
+
+@[category test, AMS 11]
+lemma a_zero : a 0 = 1 := by rfl
+
+@[category test, AMS 11]
+lemma a_one : a 1 = 1 := by rfl
+
```
Comment (codrut3) [inline FormalConjectures/OEIS/108.lean:63]: a 2 is missing.

File: FormalConjectures/OEIS/113254.lean [hunk 4]
```diff
@@ -0,0 +1,84 @@
...
+lemma a_four : a 4 = -15616 := by rfl
+
+
+/--
+A113254: Corresponds to $m = 8$ in a family of 4th-order linear recurrence sequences.
+
+The sequence $a(n)$ is defined by the initial conditions $a(0)=-1, a(1)=4, a(2)=176, a(3)=3136$,
+and the linear recurrence relation
+$a(n) = -4 * a (n-1) + 256 * a (n-3) + 4096 * a (n-4)$ for $n \ge 4$.
+
```
Comment (codrut3) [inline FormalConjectures/OEIS/113254.lean:70]: The statement of the conjecture is missing.

File: FormalConjectures/OEIS/113254.lean [hunk 5]
```diff
@@ -0,0 +1,84 @@
...
+A formal proof has been found with the methods described in [arxiv/2605.22763](https://arxiv.org/abs/2605.22763).
+-/
+@[category research solved, AMS 11, formal_proof using formal_conjectures at
+"https://github.com/mo271/formal-conjectures/blob/a32396489dcb8f86c3549b93aa358ac6a10a3a1f/FormalConjectures/OEIS/113254.wip.lean#L130"]
+theorem a_odd_is_square : ∀ n : ℕ, IsSquare (a (2 * n + 1)) := by
```
Comment (codrut3) [inline FormalConjectures/OEIS/113254.lean:76]: The statement is for a(m, n), a more general sequence. It seems to me the proof is just for m=8, it doesn't prove the full conjecture.

File: FormalConjectures/OEIS/175386.lean [hunk 6]
```diff
@@ -0,0 +1,85 @@
...
+lemma a_five : a 5 = 5 := by native_decide
+
+
+/--
+A175386: $a(n)$ is the denominator of the sum
+$$\sum_{i=1}^n \frac{1}{i} \binom{2n-i-1}{i-1}$$
+
+The sum which A175386 $a(n)$ is the denominator of.
+
+A formal proof has been found with the methods described in [arxiv/2605.22763](https://arxiv.org/abs/2605.22763).
```
Comment (codrut3) [inline FormalConjectures/OEIS/175386.lean]: No conjecture statement.

File: FormalConjectures/OEIS/175386.lean [hunk 7]
```diff
@@ -0,0 +1,85 @@
...
+-/
+@[category research solved, AMS 11, formal_proof using formal_conjectures at
+"https://github.com/mo271/formal-conjectures/blob/a32396489dcb8f86c3549b93aa358ac6a10a3a1f/FormalConjectures/OEIS/175386.wip.lean#L304"]
+theorem a_ne_one (n : ℕ) (hn : 1 < n) : a n ≠ 1 := by
```
Comment (codrut3) [inline FormalConjectures/OEIS/175386.lean:72]: I realize now that the OEIS sequence is not well-defined, it should state a n is the denominator of the reduced fraction. Nevertheless, this file is correct.

File: FormalConjectures/OEIS/194806.lean [hunk 8]
```diff
@@ -0,0 +1,120 @@
...
+
+
+/--
+The set of all products of elements from a Finset S.
+
+A194806: Size of the smallest subset $S$ of $T = \{1,2,3,\dots,n\}$
+such that $S \cdot S$ contains $T$,
+where $S \cdot S$ is the set of all products of elements of $S$.
+
+A formal proof has been found with the methods described in [arxiv/2605.22763](https://arxiv.org/abs/2605.22763).
```
Comment (codrut3) [inline FormalConjectures/OEIS/194806.lean]: No conjecture statement.

File: FormalConjectures/OEIS/211417.lean [hunk 9]
```diff
@@ -0,0 +1,90 @@
...
+
+@[category test, AMS 11]
+lemma a_four : a 4 = 38113558705192522309151157825210540422513019720 := by rfl
+
+
+/--
+Integral factorial ratio sequence:
+$$a(n) = \frac{(30n)! n!}{(15n)! (10n)! (6n)!}$$
+
+The product term in the denominator of the general conjecture:
```
Comment (codrut3) [inline FormalConjectures/OEIS/211417.lean]: This conjecture is not formalized. What is formalized is the weaker statement that 30n-1 divides a(n).

File: FormalConjectures/OEIS/224515.lean [hunk 10]
```diff
@@ -0,0 +1,116 @@
...
+/--
+a: $a(n) = \text{least } k \text{ such that } \sqrt{k^2 \operatorname{XOR} (k+1)^2} = 2n+1$,
+$a(n) = -1 \text{ if there is no such } k$.
+This is equivalent to finding the smallest $k \in \mathbb{N}$
+such that $k^2 \oplus (k+1)^2 = (2n+1)^2$.
+We use the set infimum ($\operatorname{sInf}$) to denote the least element
+of the set of natural numbers satisfying the condition.
+Since Mathlib's `sInf` on a subset of `ℕ` gives a result in `ℕ`, this definition
+is only completely faithful to the OEIS when the set is non-empty.
+The OEIS definition implies that the set of k's is non-empty for all n.
```
Comment (codrut3) [inline FormalConjectures/OEIS/224515.lean]: The (proved) conjecture implies this.

File: FormalConjectures/OEIS/224515.lean [hunk 11]
```diff
@@ -0,0 +1,116 @@
...
+  intro k hk; interval_cases k <;> decide
+
+@[category test, AMS 11]
+lemma a_four : a 4 = 23 := by
+  apply A224515_eq 4 23 (by decide)
+  intro k hk; interval_cases k <;> decide
+
+
+/--
+a: $a(n) = \text{least } k \text{ such that } \sqrt{k^2 \operatorname{XOR} (k+1)^2} = 2n+1$,
```
Comment (codrut3) [inline FormalConjectures/OEIS/224515.lean]: This duplicates the comment above, but doesn't add more information about what needs to be proven.

File: FormalConjectures/OEIS/227582.lean [hunk 12]
```diff
@@ -0,0 +1,92 @@
...
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Conjectures associated with A227582
+
+The sequence $b_n$ such that $A227582(n) = b_{n-1}$ for $n \ge 1$.
+This is the 0-indexed solution to the linear recurrence in $\mathbb{Z}$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/227582.lean]: Which linear recurrence?

File: FormalConjectures/OEIS/227582.lean [hunk 13]
```diff
@@ -0,0 +1,92 @@
...
+A227582: Expansion of $(2+3*x+2*x^2+2*x^3+3*x^4+x^5-x^6)/(1-2x+x^2-x^5+2*x^6-x^7)$.
+The sequence is 1-indexed in OEIS, so $a(n)$ is the $(n-1)$-th term of the 0-indexed solution.
+-/
+noncomputable def a (n : ℕ) : ℕ :=
+  if 0 < n then
+    (A227582_base (n - 1)).toNat
+  else
+    0
+
+
```
Comment (codrut3) [inline FormalConjectures/OEIS/227582.lean:63]: a 0 and a 1 are missing.

File: FormalConjectures/OEIS/227582.lean [hunk 14]
```diff
@@ -0,0 +1,92 @@
...
+/--
+The sequence $b_n$ such that $A227582(n) = b_{n-1}$ for $n \ge 1$.
+This is the 0-indexed solution to the linear recurrence in $\mathbb{Z}$.
+
+A227582: Expansion of $(2+3*x+2*x^2+2*x^3+3*x^4+x^5-x^6)/(1-2x+x^2-x^5+2*x^6-x^7)$.
+The sequence is 1-indexed in OEIS, so $a(n)$ is the $(n-1)$-th term of the 0-indexed solution.
+
+A formal proof has been found with the methods described in [arxiv/2605.22763](https://arxiv.org/abs/2605.22763).
```
Comment (codrut3) [inline FormalConjectures/OEIS/227582.lean]: The conjecture statement is missing.

File: FormalConjectures/OEIS/227582.lean [hunk 15]
```diff
@@ -0,0 +1,92 @@
...
+
+@[category test, AMS 11]
+lemma a_four : a 4 = 23 := by dsimp [a]; native_decide
+
+@[category test, AMS 11]
+lemma a_five : a 5 = 35 := by dsimp [a]; native_decide
+
+
+/--
+The sequence $b_n$ such that $A227582(n) = b_{n-1}$ for $n \ge 1$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/227582.lean]: As before this comment is duplicated with the one above.

File: FormalConjectures/OEIS/228143.lean [hunk 16]
```diff
@@ -0,0 +1,99 @@
...
+
+@[category test, AMS 11]
+lemma a_two : a 2 = 161856 := by sorry
+
+@[category test, AMS 11]
+lemma a_three : a 3 = 39002646528 := by sorry
+
+@[category test, AMS 11]
+lemma a_four : a 4 = 674708032182398976 := by sorry
+
```
Comment (codrut3) [inline FormalConjectures/OEIS/228143.lean:84]: a 5 is missing.

File: FormalConjectures/OEIS/237271.lean [hunk 17]
```diff
@@ -0,0 +1,121 @@
...
+
+@[category test, AMS 11]
+lemma a_four : a 4 = 1 := by native_decide
+
+@[category test, AMS 11]
+lemma a_five : a 5 = 2 := by native_decide
+
+
+/--
+A237271: Number of parts in the symmetric representation of $\sigma(n)$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/237271.lean]: Same observations as before about the comment.

File: FormalConjectures/OEIS/237271.lean [hunk 18]
```diff
@@ -0,0 +1,121 @@
...
+a(n) is $1$ plus the number of pairs $(d_k, d_{k+1})$ of consecutive divisors of $n$
+such that $d_{k+1}$ is odd and $d_{k+1} \ge 2 d_k$.
+
+The formula used is
+$1 + |\{(d_k, d_{k+1}) \in \text{consecutive pairs of divisors of } n \mid
+d_{k+1} \text{ is odd and } d_{k+1} \ge 2 d_k\}|$,
+which is a known characterization of the sequence.
+
+A formal proof has been found with the methods described in [arxiv/2605.22763](https://arxiv.org/abs/2605.22763).
```
Comment (codrut3) [inline FormalConjectures/OEIS/237271.lean]: There are multiple conjectures in the webpage, should all be included here?

File: FormalConjectures/OEIS/103311.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/OEIS/103311.lean]: good catch, added conjecture

File: FormalConjectures/OEIS/108.lean (hunk 2 above)
Comment (mo271) [reply FormalConjectures/OEIS/108.lean:24]: added statement

File: FormalConjectures/OEIS/113254.lean (hunk 4 above)
Comment (mo271) [reply FormalConjectures/OEIS/113254.lean:70]: added

File: FormalConjectures/OEIS/113254.lean [hunk 19]
```diff
@@ -0,0 +1,80 @@
...
+
+@[category test, AMS 11]
+lemma a_3 : a 3 = 3136 := by rfl
+
+@[category test, AMS 11]
+lemma a_4 : a 4 = -15616 := by rfl
+
+
+/--
+Conjecture: $a(m, 2n+1)$ is a perfect square for all $m, n$ (see A113249).
```
Comment (mo271) [inline FormalConjectures/OEIS/113254.lean]:
```suggestion
Conjecture: $a(8, 2n+1)$ is a perfect square for all $n$ (see A113249).
```

File: FormalConjectures/OEIS/108.lean (hunk 3 above)
Comment (mo271) [reply FormalConjectures/OEIS/108.lean:63]: here now

File: FormalConjectures/OEIS/113254.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/OEIS/113254.lean:76]: great catch!! 
It is indeed only the m=8 case. 
We should update this on the OEIS, which already now falsely reports the AlphaProof Nexus result as solving the case for general `m`.

File: FormalConjectures/OEIS/175386.lean (hunk 6 above)
Comment (mo271) [reply FormalConjectures/OEIS/175386.lean]: added statement

File: FormalConjectures/OEIS/175386.lean (hunk 7 above)
Comment (mo271) [reply FormalConjectures/OEIS/175386.lean:72]: ack

File: FormalConjectures/OEIS/194806.lean (hunk 8 above)
Comment (mo271) [reply FormalConjectures/OEIS/194806.lean]: added

File: FormalConjectures/OEIS/224515.lean [hunk 20]
```diff
@@ -0,0 +1,108 @@
...
+$a(n) = -1 \text{ if there is no such } k$.
+This is equivalent to finding the smallest $k \in \mathbb{N}$
+such that $k^2 \oplus (k+1)^2 = (2n+1)^2$.
+We use the set infimum ($\operatorname{sInf}$) to denote the least element
+of the set of natural numbers satisfying the condition.
+Since Mathlib's `sInf` on a subset of `ℕ` gives a result in `ℕ`, this definition
+is only completely faithful to the OEIS when the set is non-empty.
+The OEIS definition implies that the set of k's is non-empty for all n.
```
Comment (mo271) [inline FormalConjectures/OEIS/224515.lean]:
```suggestion
The OEIS definition implies that the set of k's is non-empty for all n,
which is legitimite as shown by the theorem `exists_xor_sq_eq` below.
```

File: FormalConjectures/OEIS/228143.lean (hunk 16 above)
Comment (mo271) [reply FormalConjectures/OEIS/228143.lean:84]: I think it is fine: especially since we have such large numbers already (hence many bits of information)

File: FormalConjectures/OEIS/227582.lean (hunk 12 above)
Comment (mo271) [reply FormalConjectures/OEIS/227582.lean]: added recurrence and even proved equilalence...

File: FormalConjectures/OEIS/227582.lean (hunk 13 above)
Comment (mo271) [reply FormalConjectures/OEIS/227582.lean:63]: added 1

File: FormalConjectures/OEIS/227582.lean (hunk 14 above)
Comment (mo271) [reply FormalConjectures/OEIS/227582.lean]: added

File: FormalConjectures/OEIS/224515.lean (hunk 10 above)
Comment (mo271) [reply FormalConjectures/OEIS/224515.lean]: now mentioning this

File: FormalConjectures/OEIS/227582.lean (hunk 15 above)
Comment (mo271) [reply FormalConjectures/OEIS/227582.lean]: fixed

File: FormalConjectures/OEIS/237271.lean (hunk 17 above)
Comment (mo271) [reply FormalConjectures/OEIS/237271.lean]: fixed

File: FormalConjectures/OEIS/237271.lean (hunk 18 above)
Comment (mo271) [reply FormalConjectures/OEIS/237271.lean]: done

File: FormalConjectures/OEIS/211417.lean (hunk 9 above)
Comment (mo271) [reply FormalConjectures/OEIS/211417.lean]: yes, added the general one any many more versions now

File: FormalConjectures/OEIS/224515.lean (hunk 11 above)
Comment (mo271) [reply FormalConjectures/OEIS/224515.lean]: done

File: FormalConjectures/OEIS/108.lean [hunk 21]
```diff
@@ -0,0 +1,89 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A108
+
+A000108 Catalan numbers: C(n) = binomial(2n,n)/(n+1).
```
Comment (codrut3) [inline FormalConjectures/OEIS/108.lean]: Maybe use latex in the title

File: FormalConjectures/OEIS/108.lean [hunk 22]
```diff
@@ -0,0 +1,89 @@
...
+
+/--
+A000108 Catalan numbers: C(n) = binomial(2n,n)/(n+1).
+-/
+def a (n : ℕ) : ℕ := (Nat.choose (2 * n) n) / (n + 1)
+
+def a_rat (n : ℕ) : ℚ := (a n : ℚ)⁻¹
+
+/-- The sum $\sum_{i=j}^k \frac{1}{a(i)}$ of reciprocals of Catalan numbers. -/
+def catalan_reciprocal_sum (j k : ℕ) : ℚ :=
```
Comment (codrut3) [inline FormalConjectures/OEIS/108.lean]: catalanReciprocalSum? Same below for the names. I have this file in my PR too btw.

File: FormalConjectures/OEIS/113254.lean [hunk 23]
```diff
@@ -0,0 +1,80 @@
...
+- [arxiv/2605.22763](https://arxiv.org/abs/2605.22763) *Advancing Mathematics Research with AI-Driven Formal Proof Search* by George Tsoukalas et al.
+-/
+
+namespace OeisA113254
+
+
+open Nat Int
+
+/--
+A113254: Corresponds to $m = 8$ in a family of 4th-order linear recurrence sequences.
```
Comment (codrut3) [inline FormalConjectures/OEIS/113254.lean]: I think this first sentence can be deleted, since it matches the introduction.

File: FormalConjectures/OEIS/175386.lean [hunk 24]
```diff
@@ -0,0 +1,82 @@
...
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A175386
+
+A175386: $a(n)$ is the denominator of the sum
+$$\sum_{i=1}^n \frac{1}{i} \binom{2n-i-1}{i-1}$$
+
+The sum which A175386 $a(n)$ is the denominator of.
```
Comment (codrut3) [inline FormalConjectures/OEIS/175386.lean]: This sentence can be deleted.

File: FormalConjectures/OEIS/175386.lean [hunk 25]
```diff
@@ -0,0 +1,82 @@
...
+  (Finset.sum (Finset.Icc 1 n) fun i : ℕ =>
+    -- The upper index is $2n - i - 1$, which is equivalent to
+    -- $2n - (i+1)$ in $\mathbb{N}$ for $i \le n$.
+    -- The lower index $i-1$ is standard subtraction in $\mathbb{N}$.
+    let num : ℕ := Nat.choose (2 * n - (i + 1)) (i - 1)
+    (num : ℚ) / (i : ℚ)
+  ).den
+
+/-- The sum which A175386 $a(n)$ is the denominator of. -/
+def S (n : ℕ) : ℚ :=
```
Comment (codrut3) [inline FormalConjectures/OEIS/175386.lean]: Why is S needed?

File: FormalConjectures/OEIS/211417.lean [hunk 26]
```diff
@@ -0,0 +1,146 @@
...
+
+/-!
+# Conjectures associated with A211417
+
+Integral factorial ratio sequence:
+$$a(n) = \frac{(30n)! n!}{(15n)! (10n)! (6n)!}$$
+
+The product term in the denominator of the general conjecture:
+$$\prod_{i = 1..r, i \text{ coprime to } 30} (30n - i)$$
+We define this in ℤ to handle the $n=0$ case where $30n-i$ in the product might be negative.
```
Comment (codrut3) [inline FormalConjectures/OEIS/211417.lean]: I think this paragraph is related to one of the conjectures so it doesn't have to be in the intro.

File: FormalConjectures/OEIS/224515.lean [hunk 27]
```diff
@@ -0,0 +1,109 @@
...
+a: $a(n) = \text{least } k \text{ such that } \sqrt{k^2 \operatorname{XOR} (k+1)^2} = 2n+1$,
+$a(n) = -1 \text{ if there is no such } k$.
+This is equivalent to finding the smallest $k \in \mathbb{N}$
+such that $k^2 \oplus (k+1)^2 = (2n+1)^2$.
+We use the set infimum ($\operatorname{sInf}$) to denote the least element
+of the set of natural numbers satisfying the condition.
+Since Mathlib's `sInf` on a subset of `ℕ` gives a result in `ℕ`, this definition
+is only completely faithful to the OEIS when the set is non-empty.
+The OEIS definition implies that the set of k's is non-empty for all n,
+which is legitimite as shown by the theorem `exists_xor_sq_eq` below.
```
Comment (codrut3) [inline FormalConjectures/OEIS/224515.lean]: legitimate

File: FormalConjectures/OEIS/243106.lean [hunk 28]
```diff
@@ -0,0 +1,75 @@
...
+
+@[category test, AMS 11]
+lemma a_4 : a 4 = 8910 := by rfl
+
+@[category test, AMS 11]
+lemma a_5 : a 5 = -91090 := by rfl
+
+
+/--
+Conjecture: When expressed in base $b \ge 5$, the absolute value of any partial sum $\sum \pm b^k$ only contains digits belonging to $\{0, 1, b-2, b-1\}$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/243106.lean:67]: This conjecture is a bit weird because it's not really related to the sequence. But I read the OEIS page and the definition here matches my understanding of what is stated on the page.

File: FormalConjectures/OEIS/248802.lean [hunk 29]
```diff
@@ -0,0 +1,92 @@
...
+A formal proof has been found with the methods described in [arxiv/2605.22763](https://arxiv.org/abs/2605.22763).
+-/
+@[category research solved, AMS 11, formal_proof using formal_conjectures at
+"https://github.com/mo271/formal-conjectures/blob/a32396489dcb8f86c3549b93aa358ac6a10a3a1f/FormalConjectures/OEIS/248802.wip.lean#L208"]
+theorem a_ten_mul_add_two_eq (n : ℕ) : a (10 * n + 2) = 67 := by
+    sorry
+
+
+/--
+Theorem: $a(2n+1) = 13$ for $n \ge 1$. Conjecture 1: $a(10n+2) = 67$ for $n \ge 0$. - _Chai Wah Wu_, Oct 21 2019
```
Comment (codrut3) [inline FormalConjectures/OEIS/248802.lean]: This should be the comment above theorem a_ten_mul_add_two_eq. Then the comment here should be:

Conjecture 4: a(58n+26) = 1399 for n >= 0 and when it is not covered by Conjectures 1-3

File: FormalConjectures/OEIS/267581.lean [hunk 30]
```diff
@@ -0,0 +1,106 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A267581
+
+The rule function for Rule 167. Inputs must be 0 or 1.
```
Comment (codrut3) [inline FormalConjectures/OEIS/267581.lean]: I think the description should be the definition of the sequence:

Decimal representation of the middle column of the "Rule 167" elementary cellular automaton starting with a single ON (black) cell.

File: FormalConjectures/OEIS/28859.lean [hunk 31]
```diff
@@ -0,0 +1,81 @@
...
+
+@[category test, AMS 11]
+lemma a_3 : a 3 = 22 := by native_decide
+
+@[category test, AMS 11]
+lemma a_4 : a 4 = 60 := by native_decide
+
+
+/--
+Conjecture: Also the number of compositions of $n$ into positive integers such that adjacent parts and the largest part differ by at most 1. - _Gus Wiseman_, May 19 2020
```
Comment (codrut3) [inline FormalConjectures/OEIS/28859.lean]: Maybe start the conjecture statement with: a(n) is also ...

File: FormalConjectures/OEIS/2897.lean [hunk 32]
```diff
@@ -0,0 +1,100 @@
...
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A2897
+
+The sequence $a(n)$ is defined by $a(n) = \binom{2n}{n}^3$.
+We use `Nat.choose (2 * n) n` for the central binomial coefficient.
+
+The finsupp corresponding to the monomial $x^n y^n z^n$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/2897.lean]: Maybe delete this technical comment from the introduction. It is stated below too.

File: FormalConjectures/OEIS/307865.lean [hunk 33]
```diff
@@ -0,0 +1,86 @@
...
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A307865
+
+A307865: $a(n)$ is the number of natural bases $b < 2n+1$ such that $b^n \equiv -1 \pmod{2n+1}$.
+The bases $b$ are interpreted as $b \in \{1, 2, \dots, 2n\}$.
+We check the condition in the ring $\mathbb{Z}/(2n+1)\mathbb{Z}$.
+
+A natural number $m > 1$ is an absolute Euler pseudoprime if it is composite and
```
Comment (codrut3) [inline FormalConjectures/OEIS/307865.lean]: This definition is relevant only in the context of the conjecture. Perhaps move it above the conjecture? Or add the conjecture here too?

File: FormalConjectures/OEIS/309132.lean [hunk 34]
```diff
@@ -0,0 +1,86 @@
...
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A309132
+
+A309132: a(n) is the denominator of F(n) = A027641(n-1)/n + A027642(n-1)/n^2.
+
+Definition of a Carmichael number $n$: a composite number s.t.
+$b^{n-1} \equiv 1 \pmod n$ for all $b$ coprime to $n$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/309132.lean]: Maybe add the conjecture statement here?

File: FormalConjectures/OEIS/341254.lean [hunk 35]
```diff
@@ -0,0 +1,165 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A341254
+
+The constant $r = (2 + \sqrt{5})/2$.
```
Comment (codrut3) [inline FormalConjectures/OEIS/341254.lean]: The intro misses the definition of a(n). Add:

a(n) = floor(r*floor(r*n)), where r = (2 + sqrt(5))/2

and remove: "The constant $r^2$.".

File: FormalConjectures/OEIS/363347.lean [hunk 36]
```diff
@@ -0,0 +1,101 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A363347
+
+Helper function for a, which computes the denominator $R_k(n)$ of the continued fraction expression.
```
Comment (codrut3) [inline FormalConjectures/OEIS/363347.lean]: The introduction is missing the definition of a(n): Denominator of the continued fraction 1/(2-3/(3-4/(4-5/(...(n-1)-n/(-4))))).

The helper function definition doesn't have to be in in the intro.

File: FormalConjectures/OEIS/372761.lean [hunk 37]
```diff
@@ -0,0 +1,117 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A372761
+
```
Comment (codrut3) [inline FormalConjectures/OEIS/372761.lean:21]: I think it's easier to state the definition of a(n): Denominator of the continued fraction 1/(2-3/(3-4/(4-5/(...(n-1)-n/(n+4))))).

$A_k(n)$ and $C_n$ are harder to understand.

File: FormalConjectures/OEIS/382590.lean [hunk 38]
```diff
@@ -0,0 +1,103 @@
...
+def ab_pair : ℕ → ℤ × ℤ
+| 0 => (1, 1)
+| 1 => (2, 1)
+| n + 2 =>
+  let (a_n_plus_1, b_n_plus_1) := ab_pair (n + 1)
+  let (a_n, b_n) := ab_pair n
+  (a_n_plus_1 * b_n + a_n * b_n_plus_1, a_n_plus_1 * b_n - a_n * b_n_plus_1)
+
+/--
+a: $a(n)$ is the sequence defined by the mutual recurrence relations:
```
Comment (codrut3) [inline FormalConjectures/OEIS/382590.lean]: This could be the intro too.

File: FormalConjectures/OEIS/62567.lean [hunk 39]
```diff
@@ -0,0 +1,115 @@
...
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjecturesUtil
+
+/-!
+# Conjectures associated with A62567
+
+The number whose digits in base 10 are $n$'s digits reversed.
```
Comment (codrut3) [inline FormalConjectures/OEIS/62567.lean]: This sentence can be deleted, leaving just the sequence definition.

File: FormalConjectures/OEIS/62567.lean [hunk 40]
```diff
@@ -0,0 +1,115 @@
...
+lemma a_4 : a 4 = 4 := by
+  apply a_eq_self 4 (by omega) (by rw [reverse_nat_of_lt 4 (by decide) (by decide)])
+
+@[category test, AMS 11]
+lemma a_5 : a 5 = 5 := by
+  apply a_eq_self 5 (by omega) (by rw [reverse_nat_of_lt 5 (by decide) (by decide)])
+
+
+/--
+Conjecture: For $n > 1$, $a(3^n) = 10^{3^{n-2}} - 1$. Disproved for $n > 4$ by _Farideh Firoozbakht_, Nov 13 2005.
```
Comment (codrut3) [inline FormalConjectures/OEIS/62567.lean]: I think a better statement is:
Shown to be false for $4 < n < 21$ by _Farideh Firoozbakht_, who conjectured that for all $n > 4$ we have $a(3^n) \neq 10^{3^{n-2}} - 1$. This latter conjecture was shown by AlphaProof.

File: FormalConjectures/OEIS/51293.lean [hunk 41]
```diff
@@ -0,0 +1,89 @@
...
+
+A formal proof has been found with the methods described in [arxiv/2605.22763](https://arxiv.org/abs/2605.22763).
+-/
+@[category research solved, AMS 11, formal_proof using formal_conjectures at
+"https://github.com/mo271/formal-conjectures/blob/a32396489dcb8f86c3549b93aa358ac6a10a3a1f/FormalConjectures/OEIS/51293.wip.lean#L503"]
+theorem tendsto_a_real_asymptotic :
+    Tendsto (fun n : ℕ => (a_real n - ((2 : ℝ) ^ (n + 1) / (n : ℝ)) *
+      ((1 : ℝ) + 1 / (n : ℝ) + 3 / ((n : ℝ) ^ 2) + 13 / ((n : ℝ) ^ 3) +
+        75 / ((n : ℝ) ^ 4) + 541 / ((n : ℝ) ^ 5))) /
+      (((2 : ℝ) ^ (n + 1)) / ((n : ℝ) ^ 6))) atTop (nhds 0) := by
```
Comment (codrut3) [inline FormalConjectures/OEIS/51293.lean]: I find this statement hard to read. Is there a nicer way to write it? To be more like:
a(n) = 2^(n+1)/n * (1 + 1/n + 3/n^2 + 13/n^3 + 75/n^4 + 541/n^5 + o(1/n^5)).

Also, this statement was a stronger conjecture on the page, not just a(n) ~ 2^(n+1)/n. Was the asymptotic already known?

**Review by codrut3 — APPROVED** [review]

File: FormalConjectures/OEIS/108.lean (hunk 21 above)
Comment (mo271) [reply FormalConjectures/OEIS/108.lean]: done, here and everywhere in the newly added files

File: FormalConjectures/OEIS/113254.lean (hunk 23 above)
Comment (mo271) [reply FormalConjectures/OEIS/113254.lean]: deleted here and in 23 other files..

File: FormalConjectures/OEIS/108.lean (hunk 22 above)
Comment (mo271) [reply FormalConjectures/OEIS/108.lean]: did this here and also in a bunch of other places we follow naming convention more closely now

File: FormalConjectures/OEIS/175386.lean (hunk 24 above)
Comment (mo271) [reply FormalConjectures/OEIS/175386.lean]: done

File: FormalConjectures/OEIS/175386.lean (hunk 25 above)
Comment (mo271) [reply FormalConjectures/OEIS/175386.lean]: not needed, delted

File: FormalConjectures/OEIS/211417.lean (hunk 26 above)
Comment (mo271) [reply FormalConjectures/OEIS/211417.lean]: removed

File: FormalConjectures/OEIS/224515.lean (hunk 27 above)
Comment (mo271) [reply FormalConjectures/OEIS/224515.lean]: done

File: FormalConjectures/OEIS/248802.lean (hunk 29 above)
Comment (mo271) [reply FormalConjectures/OEIS/248802.lean]: switchen them! good catch

File: FormalConjectures/OEIS/267581.lean (hunk 30 above)
Comment (mo271) [reply FormalConjectures/OEIS/267581.lean]: done

File: FormalConjectures/OEIS/28859.lean (hunk 31 above)
Comment (mo271) [reply FormalConjectures/OEIS/28859.lean]: done

File: FormalConjectures/OEIS/2897.lean (hunk 32 above)
Comment (mo271) [reply FormalConjectures/OEIS/2897.lean]: removed

File: FormalConjectures/OEIS/309132.lean (hunk 34 above)
Comment (mo271) [reply FormalConjectures/OEIS/309132.lean]: done

File: FormalConjectures/OEIS/341254.lean (hunk 35 above)
Comment (mo271) [reply FormalConjectures/OEIS/341254.lean]: done

File: FormalConjectures/OEIS/372761.lean (hunk 37 above)
Comment (mo271) [reply FormalConjectures/OEIS/372761.lean:21]: done, changed the definition (and updated the formal_proof kind to `lean4`, since it is now a slightly different statement (can be upgraded to `formal_conjectures` again later...)

File: FormalConjectures/OEIS/62567.lean (hunk 39 above)
Comment (mo271) [reply FormalConjectures/OEIS/62567.lean]: done

File: FormalConjectures/OEIS/363347.lean (hunk 36 above)
Comment (mo271) [reply FormalConjectures/OEIS/363347.lean]: done

File: FormalConjectures/OEIS/62567.lean (hunk 40 above)
Comment (mo271) [reply FormalConjectures/OEIS/62567.lean]: added a sentence to that effect

File: FormalConjectures/OEIS/51293.lean (hunk 41 above)
Comment (mo271) [reply FormalConjectures/OEIS/51293.lean]: fixing the docstinrg and making it the lean more readble not. In fact the stronger statement was proved.

File: FormalConjectures/OEIS/307865.lean (hunk 33 above)
Comment (mo271) [reply FormalConjectures/OEIS/307865.lean]: make sense, (re)moved

File: FormalConjectures/OEIS/243106.lean (hunk 28 above)
Comment (mo271) [reply FormalConjectures/OEIS/243106.lean:67]: added a setnence explaining the relationship, but I agree it is a bit awkward..

**Review by codrut3 — APPROVED** [review]

**Comment by mo271** [comment]
need another reviewer to stamp, because Codrut doesn't (yet) have the right access rights...

File: FormalConjectures/OEIS/267581.lean [hunk 42]
```diff
@@ -0,0 +1,104 @@
...
+def middleColumnBit (t : ℕ) : ℕ := caState t 0
+
+/--
+Decimal representation of the middle column of the "Rule 167" elementary cellular automaton
+starting with a single ON (black) cell.
+The term $a(n)$ is the decimal value of the binary number $C_{0, 0} C_{1, 0} \dots C_{n, 0}$,
+where $C_{i, 0}$ is the state of the center cell at time $i$.
+$$a(n) = \sum_{k=0}^n C_{k, 0} \cdot 2^{n-k}$$
+-/
+noncomputable def a (n : ℕ) : ℕ :=
```
Comment (eric-wieser) [inline FormalConjectures/OEIS/267581.lean]: Why `noncomputable`? Perhaps there are others in the PR that can also be dropped?

Comment (mo271) [reply FormalConjectures/OEIS/267581.lean]: thanks: it was more like 11 others...

Comment (mo271) [reply FormalConjectures/OEIS/267581.lean]: perhaps good to include "avoid unnecessary `noncomputable` defs" in some README.md/SKILL.md...

**Review by Paul-Lez — APPROVED** [review]

File: FormalConjectures/OEIS/113254.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/OEIS/113254.lean:76]: proposed a clarifying edit on the oeis about that

Comment (mo271) [reply FormalConjectures/OEIS/113254.lean:76]: ..which got accepted
